US08912188B2
To a solution of 3-[methyl(propan-2-yl)amino]-2-[1-[tris(propan-2-yl)silyl]-1H-pyrrol-3-yl]quinoxaline-6-carboxylate (130 mg, 0.27 mmol) in THF (10 mL) was added TBAF (71 mg, 0.27 mmol) with stirring for 10 min at room temperature. The resulting mixture was concentrated under vacuum, diluted with water (30 mL), and extracted with ethyl acetate (2×30 mL). The organic layers were combined, dried over anhydrous sodium sulfate, and the solids were collected via filtration. The resulting mixture was concentrated under vacuum to give methyl 3-[methyl(propan-2-yl)amino]-2-(1H-pyrrol-3-yl)quinoxaline-6-carboxylate (70 mg, 80%) as yellow oil.

reactant | 3-[methyl(propan-2-yl)amino]-2-[1-[tris(propan-2-yl)silyl]-1H-pyrrol-3-yl]quinoxaline-6-carboxylate | 0.27 mmol, 130 mg | CN(C=1C(=NC2=CC=C(C=C2N1)C(=O)[O-])C1=CN(C=C1)[Si](C(C)C)(C(C)C)C(C)C)C(C)C
reactant | TBAF | 0.27 mmol, 71 mg | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | methyl 3-[methyl(propan-2-yl)amino]-2-(1H-pyrrol-3-yl)quinoxaline-6-carboxylate | 70 mg, 80% | CN(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CNC=C1)C(C)C | C18H20N4O2
